US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-methanesulfonylamino-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Octylamide
4-[4-(2-Aminoethyl)anilino]-N-octyl-1-piperidinecarboxamide (0.245 g, 0.58 mmol) was reacted with N-(4-[(2S)oxiranylmethoxy]phenyl)methanesulfonamide (0.13 g, 0.53 mmol) according to Procedure G (eluant: 20:1 chloroform-methanol) to give the title compound (0.04 g, 0.064mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-octyl-1-piperidinecarboxamide | 0.58 mmol, 0.245 g | NCCC1=CC=C(NC2CCN(CC2)C(=O)NCCCCCCCC)C=C1 | C22H38N4O
reactant | N-(4-[(2S)oxiranylmethoxy]phenyl)methanesulfonamide | 0.53 mmol, 0.13 g | O1[C@@H](C1)COC1=CC=C(C=C1)NS(=O)(=O)C | C10H13NO4S
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-methanesulfonylamino-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Octylamide | 0.064mmol, 0.04 g | C(CCCCCCC)NC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)NS(=O)(=O)C)O | C32H51N5O5S
